US08895777B2
Preparation of 6-(3-Acetylphenoxy)hexanoic acid (Compound 2)
A round bottom flask equipped with a magnetic stirrer bar and a reflux condenser was charged with 5.0 g (36.7 mmol) of 3-hydroxyacetophenone, 8.18 g (36.7 mmol) of ethyl 6-bromohexanoate and 50 mL of ethanol. The clear reaction mixture was treated with potassium carbonate (6.03 g, 44.0 mmol) and heated to reflux. After stirring for 24 hr at reflux, the reaction mixture was cooled to 25° C., filtered through a Celite pad and concentrated. The residue was taken up in of ethanol and treated with 15 mL of 2N aqueous sodium hydroxide (30 mmol). The reaction mixture was stirred for 6 hr at 25° C., before the ethanol was stripped off. The residue was acidified with aqueous 1N hydrochloric acid. The resulting solid was isolated by filtration and purified by recrystallization from ethanol/water to yield an off-white solid, 7.57 g, mp 70-72° C.

reactant | 3-hydroxyacetophenone | 36.7 mmol, 5.0 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | ethyl 6-bromohexanoate | 36.7 mmol, 8.18 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | potassium carbonate | 44.0 mmol, 6.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 30 mmol, 2N, 15 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-(3-Acetylphenoxy)hexanoic acid | C(C)(=O)C=1C=C(OCCCCCC(=O)O)C=CC1 | C14H18O4
